US09238639B2
Methyl(6-((2,4-dichlorobenzyl)oxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate
To a mixture of methyl(6-hydroxy-4,7-dimethyl-1-benzofuran-3-yl)acetate (150 mg) and DMF (dry) (6.4 mL) were added K2CO3 (133 mg) and 2,4-dichlorobenzyl chloride (0.107 mL). The mixture was stirred at room temperature overnight. The mixture was quenched with water. The precipitate was collected by filtration and washed with water and hexane to give the title compound (176.5 mg).

reactant | methyl(6-hydroxy-4,7-dimethyl-1-benzofuran-3-yl)acetate | 150 mg | COC(CC1=COC2=C1C(=CC(=C2C)O)C)=O | C13H14O4
reactant | K2CO3 | 133 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dichlorobenzyl chloride | 0.107 mL | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | DMF | 6.4 mL | CN(C)C=O | C3H7NO
product | Methyl(6-((2,4-dichlorobenzyl)oxy)-4,7-dimethyl-1-benzofuran-3-yl)acetate | 176.5 mg | COC(CC1=COC2=C1C(=CC(=C2C)OCC2=C(C=C(C=C2)Cl)Cl)C)=O | C20H18Cl2O4
